US04798829
1-Azabicyclo[3.2.2.]nonan-4-one oxime hydrochloride D1)
Hydroxylamine hydrochloride (2.1 g) was added to a solution of 1-azabicyclo[3.2.2.]nonan-4-one (2.77 g) in ethanol (30 ml) and the mixture was heated under reflux for 2 h. On cooling the reaction mixture to room temperature, the white solid was collected by filtration and dried in vacuo to give the title compound (2.84 g, 75%).

reactant | Hydroxylamine hydrochloride | 2.1 g | Cl.NO
reactant | nonan-4-one | 2.77 g | CCCC(CCCCC)=O | C9H18O
solvent | ethanol | 30 ml | C(C)O | C2H6O
product | nonan-4-one oxime hydrochloride | 2.84 g, 75% | Cl.CCCC(CCCCC)=NO | InChI=1S/C9H19NO.ClH/c1-3-5-6-8-9(10-11)7-4-2;/h11H,3-8H2,1-2H3;1H
